* Z:\mnt\design.r\spice\examples\1514-3.3.asc
C5 N003 N004 1µ
V2 IN 0 3
C1 OUT 0 100µ
Rload OUT 0 100
XU1 IN N001 N002 0 N004 N003 IN OUT LTC1514-3.3
.tran 5m startup
.lib LTC1514-3.3.sub
.backanno
.end
